Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Chronic abdominal pain and recurrent SBOs
 
Major Surgical or Invasive Procedure:
Laparoscopic small bowel resection. 

 
History of Present Illness:
___ M presenting with jejunal stricture noted on recent 
endsocopy. Pathology with adenoma and low grade dysplasia. Bowel 
obstructions x4 over past several years. Has symptoms of 
bloating and PO intolerance several times per week.

 
Past Medical History:
Past Medical History:HTN, HLD, GERd

Past Surgical History: Nissen, lap cholecystectomy, left 
inguinal hernia

 
Social History:
___
Family History:
Father with colon malignancy, breast cancer in mother

 
Physical ___: NAD
N: AAOx3
CV: RRR no M/G/R
P: CTAB no W/R/R
Abd: S/NT/ND, wounds c/d/i
Ext: no C/C/E
TLD: none
 
Brief Hospital Course:
___ was admitted on ___ and taken to the OR 
for laparoscopic small bowel resection. For more details, see 
operative report. The patient had a foley catheter inserted 
intraoperatively, which was removed before leaving the OR. The 
patient was then taken to the PACU in stable condition. The 
patient was then moved to the surgical floor NPO with pain well 
controlled on IV pain medications. The patient failed to void 8 
hours after removal of his foley, and he was bladder scanned for 
~600cc of urine. A straight cath was done and produced ~300cc of 
urine. POD1 the patient reported penile/urethral pain attributed 
to the catheterization, and Urocalm, Urojet and flomax were 
started. The patient went on to void without difficulty. The 
patient was also started on a clear liquid diet and oral pain 
medications, which he tolerated well. POD2 the patient was 
advanced to a regular diet. He was discharged in the afternoon 
of POD2 tolerating a regular oral diet, pain well controlled on 
oral pain medications, ambulating independently and voiding 
without difficulty. All of his questions were answered. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO Q12H 

 
Discharge Medications:
1. Omeprazole 20 mg PO Q12H 
2. Acetaminophen 650 mg PO Q6H 
3. Pravastatin 20 mg PO QPM 
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*50 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
Take for as long as you take Oxycodone. 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Jejunal adenoma and small bowel stricture

 
Discharge Condition:
Clear and coherent, awake and interactive, ambulatory and 
independent. 

 
Discharge Instructions:
Dear ___,
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing a small bowel resection for your jejunal 
adenoma. You have recovered from surgery and are now ready to be 
discharged to home. Please follow the recommendations below to 
ensure a speedy and uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluitds and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. 
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
- Your pain medicine will work better if you take it before your 
pain gets too severe.
- Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.

 
Followup Instructions:
___